US07396836B2
4-(2-Furyl)-6-isopropoxy-5-(4-pyridyl)-2-pyrimidinylamine
The title compound was synthesized in a similar manner to Example 3 using 4-chloro-6-(2-furyl)-5-(4-pyridyl)-2-pyrimidinylamine and 2-propanol.

reactant | 4-chloro-6-(2-furyl)-5-(4-pyridyl)-2-pyrimidinylamine | ClC1=NC(=NC(=C1C1=CC=NC=C1)C=1OC=CC1)N | C13H9ClN4O
solvent | 2-propanol | CC(C)O | C3H8O
product | 4-(2-Furyl)-6-isopropoxy-5-(4-pyridyl)-2-pyrimidinylamine | O1C(=CC=C1)C1=NC(=NC(=C1C1=CC=NC=C1)OC(C)C)N | C16H16N4O2
